US06821980B1
(33g) Propane-2-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-(6-methyl-pyridin-3-yl)-phenyl ester
5-(3-Ethoxy-5-hydroxy-4-iodo-benzyl)-pyrimidine-2,4-diamine (see example 32 stage a)) (5.9 g; 15.28 mmol) is dissolved in dimethylformamide (150 ml), and potassium tert-butylate (2.57 g; 22.92 mmol) is added. Propane-2-sulphonyl chloride (2.56 ml; 22.92 mmol) is added at 0° C. The mixture is then stirred for one hour at room temperature. The reaction mixture is evaporated and the residue is chromatographed over silica gel with methylene chloride/methanol (19/1) and 0.5% ammonia. The pure fractions are combined and the solvent is evaporated off.

reactant | 5-(3-Ethoxy-5-hydroxy-4-iodo-benzyl)-pyrimidine-2,4-diamine | C(C)OC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1I)O | C13H15IN4O2
reactant | potassium tert-butylate | 22.92 mmol, 2.57 g | CC(C)(C)[O-].[K+]
reactant | Propane-2-sulphonyl chloride | 22.92 mmol, 2.56 ml | CC(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Propane-2-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-(6-methyl-pyridin-3-yl)-phenyl ester | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OS(=O)(=O)C(C)C)C=1C=NC(=CC1)C)OCC | C22H27N5O4S
